US08486970B2
To 4.33 g of (3RS,4RS)-2-[(1SR,2SR)-2-aminocyclohexyl]-3-(2,4-dichlorophenyl)-1-oxo-1,2,3,4-tetrahydroisoquinoline-4-carboxylic acid were added 50 ml of ethanol and 2 ml of concentrated sulfuric acid, followed by heating under reflux overnight. Ethyl acetate and water were added thereto to carry out a liquid separation operation, and the organic layer was washed with a saturated aqueous sodium hydrogen carbonate solution and a saturated aqueous sodium chloride solution. The organic layer was dried over anhydrous sodium sulfate and then evaporated under reduced pressure. The residue was purified by silica gel column chromatography (eluent: hexane-ethyl acetate) to obtain 2.3 g of ethyl (3RS,4RS)-2-[(1SR,2SR)-2-aminocyclohexyl]-3-(2,4-dichlorophenyl)-1-oxo-1,2,3,4-tetrahydroisoquinoline-4-carboxylate as a yellow foam.

reactant | (3RS,4RS)-2-[(1SR,2SR)-2-aminocyclohexyl]-3-(2,4-dichlorophenyl)-1-oxo-1,2,3,4-tetrahydroisoquinoline-4-carboxylic acid | 4.33 g | NC1C(CCCC1)N1C(C2=CC=CC=C2C(C1C1=C(C=C(C=C1)Cl)Cl)C(=O)O)=O | C22H22Cl2N2O3
reactant | ethanol | 50 ml | C(C)O | C2H6O
reactant | sulfuric acid | 2 ml | S(O)(O)(=O)=O | H2O4S
reactant | Ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | water | O | H2O
product | ethyl (3RS,4RS)-2-[(1SR,2SR)-2-aminocyclohexyl]-3-(2,4-dichlorophenyl)-1-oxo-1,2,3,4-tetrahydroisoquinoline-4-carboxylate | 2.3 g | NC1C(CCCC1)N1C(C2=CC=CC=C2C(C1C1=C(C=C(C=C1)Cl)Cl)C(=O)OCC)=O | C24H26Cl2N2O3
